US06436929B1
5-( 4,4-dimethyl-2-thioxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1-ethyl-1H-pyrrole-2-carbonitrile
The title compound was prepared according to the procedure for Example 16 from 5-(4,4-dimethyl -2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1-ethyl-1H-pyrrole-2-carbonitrile and Lawesson's reagent. The product was obtained in the form of white needles: mp 212-213° C.; 1H-NMR (DMSO-d6) δ1.25 (t, 3H, J=7 Hz), 1.68 (s, 6H), 4.07 (q, J=7 Hz, 2H), 6.32 (d, J=3.9 Hz, 1H), 7.07 (d, J=3.9 Hz, 1H), 7.15 (d, J=9 Hz, 1H), 7.42 (m, 2H), 12.33 (s, 1H); MS (ESI) m/z 310 (M−H )−.

reactant | 5-(4,4-dimethyl -2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1-ethyl-1H-pyrrole-2-carbonitrile | CC1(OC(NC2=C1C=C(C=C2)C2=CC=C(N2CC)C#N)=O)C | C17H17N3O2
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 5-( 4,4-dimethyl-2-thioxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)-1-ethyl-1H-pyrrole-2-carbonitrile | CC1(OC(NC2=C1C=C(C=C2)C2=CC=C(N2CC)C#N)=S)C | C17H17N3OS
